US06005032
Preparation of 2-cyclopentylisothiazolin-3-one
This was prepared in analogous manner to that described in Example 17 except using 2-chlorosulphenylbenzoyl chloride (5.175 parts, 0.025M) and cyclopentylamine (8.52 parts, 0.1M ex Aldrich). The product was obtained as a yellow oil (5.9 parts) which was recrystallised form hexane mp 87-88° C.

reactant | 2-chlorosulphenylbenzoyl chloride | 0.025M | ClSC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2OS
reactant | cyclopentylamine | 0.1M | C1(CCCC1)N | C5H11N
product | 2-cyclopentylisothiazolin-3-one | C1(CCCC1)N1SCCC1=O | C8H13NOS
